US07834181B2
2-Fluoro-8-(2-bromo-4,5-dimethoxy-benzyl)-9-(pent-4-ynyl)adenine:
A solution of 8-(2-bromo-4,5-dimethoxy-benzyl)-2-fluoroadenine (13 mg, 0.034 mmol), Cs2CO3 (11 mg, 0.034 mmol), pent-4-ynyl tosylate (10 mg, 9 L, 0.044 mmol) in anhydrous DMF (80 L) was stirred at 60° C. for 30 min. Following solvent removal, the product (8.2 mg, 53.6%) was collected through silica gel column purification (CHCl3:EtOAc:hexanes:i-PrOH at 20:10:20:1). 1H NMR (400 MHz, CDCl3) 7.06 (s, 1H), 6.67 (s, 1H), 5.92 (bs, 2H), 4.31 (s, 2H), 4.14 (t, J=7.4 Hz, 2H), 3.88 (s, 3H), 3.75 (s, 3H), 2.25-2.20 (m, 2H), 1.99 (t, J=2.6 Hz, 1H), 1.96-1.89 (m, 2H); 13C NMR (100 MHz, CDCl3) 160.0, 158.3, 156.7, 153.4, 151.3, 149.4, 127.2, 117.3, 115.9, 114.5, 113.2, 82.7, 70.2, 56.62, 56.56, 42.7, 34.3, 30.1, 28.5, 16.3; MS m/z 447.9 (M+H)+. HPLC: (a) 99.0% (60% water-40% acetonitrile); (b) 98.8% (35% to 55% acetonitrile).

reactant | 8-(2-bromo-4,5-dimethoxy-benzyl)-2-fluoroadenine | 0.034 mmol, 13 mg | BrC1=C(CC2=NC3=NC(=NC(=C3N2)N)F)C=C(C(=C1)OC)OC | C14H13BrFN5O2
reactant | Cs2CO3 | 0.034 mmol, 11 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | pent-4-ynyl tosylate | 0.044 mmol, 9 L, 10 mg | S(=O)(=O)(OCCCC#C)C1=CC=C(C)C=C1 | C12H14O3S
solvent | DMF | 80 L | CN(C)C=O | C3H7NO
product | 2-Fluoro-8-(2-bromo-4,5-dimethoxy-benzyl)-9-(pent-4-ynyl)adenine | FC1=NC(=C2N=C(N(C2=N1)CCCC#C)CC1=C(C=C(C(=C1)OC)OC)Br)N | C19H19BrFN5O2
